US07074799B2
Suspend 2-acetylamino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide in 20 ml of 20% NaOH, stir for 30 minutes at room temperature. Filter, acidify to pH=6, extract with EtOAc, and concentrate under vacuum to give 2-methyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol.

reactant | 2-acetylamino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide | C(C)(=O)NC1=C(C(=O)N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C15H12F3N3O2
solvent | NaOH | 20 ml | [OH-].[Na+]
product | 2-methyl-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol | CC1=NC2=CC(=CC=C2C(=N1)O)C1=NC=CC=C1C(F)(F)F | C15H10F3N3O
